US04330292
Second step: Preparation of 2-acetylamino-4-aminophenyl γ-N,N-dimethylaminopropyl ether
7 g of 2-acetylamino-4-nitrophenyl γ-N,N-dimethylaminopropyl ether are dissolved in 35 ml of absolute ethanol. 0.5 g of 10% strength palladium-on-charcoal is added as a catalyst and the reduction is carried out in a reaction bomb under a hydrogen pressure of 40 bars, at 60° C., for 30 minutes. After the catalyst has been removed by filtration, the alcohol is driven off in vacuo to give the expected product in the form of an oil, which will be used as such for the following step.

reactant | 2-acetylamino-4-nitrophenyl γ-N,N-dimethylaminopropyl ether | 7 g | CN(C)CCCOC1=C(C=C(C=C1)[N+](=O)[O-])NC(C)=O | C13H19N3O4
solvent | ethanol | 35 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2-acetylamino-4-aminophenyl γ-N,N-dimethylaminopropyl ether | CN(C)CCCOC1=C(C=C(C=C1)N)NC(C)=O | C13H21N3O2
